US06255285B1
To a solution of 2.00 g (7.97 mmol) of Tyr(3-tBu)-OMe in a mixture of 1,4-dioxane (15 ml) and water (15 ml), 929 mg (8.76 mmol) of sodium carbonate and 1.91 g (8.75 mmol) of di-tert-butyl dicarbonate were added under cooling with ice and the resulting mixture was stirred for 2 hours. Under cooling with ice, saturated aqueous NH4Cl was added and the mixture was extracted with chloroform and washed with saturated brine. The organic layer was dried with magnesium sulfate and the solvent was distilled off under reduced pressure; the resulting residue was dissolved in a mixture of ethanol (20 ml) and THF (20 ml); under cooling with ice, 520 mg (23.9 mmol) of lithium borohydride was added to the solution and the mixture was stirred for 4 hours. To the reaction mixture, 2 N aqueous HCl was added, followed by extraction with chloroform and washing with water and saturated brine. The organic layer was dried with magnesium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluting solvent; ethyl acetate:n-hexane=1:1) to give [1-[(3-tert-butyl-4-hydroxyphenyl)methyl]-2-hydroxyethyl]carbamic acid tert-butyl ester in the amount of 2.26 g (88%).

reactant | Tyr(3-tBu)-OMe | 7.97 mmol, 2.00 g | N[C@@H](CC1=CC(=C(C=C1)O)C(C)(C)C)C(=O)OC | C14H21NO3
reactant | sodium carbonate | 8.76 mmol, 929 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 8.75 mmol, 1.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
reactant | lithium borohydride | 23.9 mmol, 520 mg | [BH4-].[Li+]
reactant | HCl | 2 N | Cl | ClH
solvent | 1,4-dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
product | [1-[(3-tert-butyl-4-hydroxyphenyl)methyl]-2-hydroxyethyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CO)CC1=CC(=C(C=C1)O)C(C)(C)C)=O | C18H29NO4
